US04713396
1-(2,5-dichloro-3-trifluoromethylphenyl)-3-(2,6-difluorobenzoyl) thiourea (Compound No. 15)
To a solution of 2,5-dichloro-3-trifluoromethylaniline (0.5 g) in 10 ml of dry benzene was added a solution of 2,6-difluorobenzoylisothiocyanate (0.45 g) in 5 ml of dry benzene under water-cooling and the solution was stirred for 10 hours. The benzene was then distilled off under reduced pressure and the residue was washed with n-hexane to obtain the desired product 0.6 g. (m.p. 136°-141° C.)

reactant | 2,5-dichloro-3-trifluoromethylaniline | 0.5 g | ClC1=C(N)C=C(C=C1C(F)(F)F)Cl | C7H4Cl2F3N
reactant | 2,6-difluorobenzoylisothiocyanate | 0.45 g | FC1=C(C(=O)N=C=S)C(=CC=C1)F | C8H3F2NOS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 1-(2,5-dichloro-3-trifluoromethylphenyl)-3-(2,6-difluorobenzoyl) thiourea | 0.6 g | ClC1=C(C=C(C=C1C(F)(F)F)Cl)NC(=S)NC(C1=C(C=CC=C1F)F)=O | C15H7Cl2F5N2OS
